US04322417
To 140 ml. of ethylene glycol is added 24 gm (0.08 mole) of 4-amino-3-mercapto[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-benzene, 14 gm. (0.08 mole) ethyl bromoacetate, and 6.4 gm. (0.08 mole) of pyridine. The solution is stirred and heated at 105°-110° for 8 hours. At the end of this period the solution is cooled and poured into 800 ml of ice-water. The resultant precipitate is filtered. The precipitate is air dried and recrystallized from ethyl acetate/hexane to give 14 gm of 7-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)-ethyl]-2H-1,4-benzothiazin-3(4H)-one, m.p. 230°-232°.

reactant | 4-amino-3-mercapto[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-benzene | 0.08 mole, 24 gm | NC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)S | C9H7F6NOS
reactant | ethyl bromoacetate | 0.08 mole | BrCC(=O)OCC | C4H7BrO2
reactant | pyridine | 0.08 mole | N1=CC=CC=C1 | C5H5N
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 7-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)-ethyl]-2H-1,4-benzothiazin-3(4H)-one | 14 gm | FC(C(C(F)(F)F)(O)C1=CC2=C(NC(CS2)=O)C=C1)(F)F | C11H7F6NO2S
